US08349880B2
N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-9-(3,5-difluorophenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine
A solution of 5-(5-chloro-1-(3,5-difluorophenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine (855 mg, 1.685 mmol), sodium iodide (1.26 g, 8.43 mmol), and diisoproplylethylamine (0.589 mL, 3.37 mmol) in acetone (20 mL) was heated in a sealed vessel at 100° C. for 4 h. The reaction was concentrated in vacuo. The crude product was purified using reverse phase preparatory-HPLC (MeOH/water/TFA). The purified material was crystallized from methanol to afford 34 mg (4% yield) of the titled compound as a white solid. LC-MS (M+H)+ 471.3. 1H NMR (500 MHz, chloroform-d) δ ppm 7.52 (d, J=1.53 Hz, 1 H) 7.42 (d, J=2.44 Hz, 1 H) 7.10 (d, J=8.55 Hz, 1 H) 7.03 (d, J=1.53 Hz, 1 H) 6.84 (dd, J=8.55, 2.44 Hz, 1 H) 6.70-6.80 (m, 3 H) 6.65 (s, 1 H) 4.18-4.32 (m, 3 H) 3.81 (s, 3 H) 2.06-2.25 (m, 2 H) 1.84-2.03 (m, 4 H).

reactant | 5-(5-chloro-1-(3,5-difluorophenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | 1.685 mmol, 855 mg | ClCCCCC(C1=CC(=CC(=C1)F)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C23H22Cl2F2N6O
reactant | sodium iodide | 8.43 mmol, 1.26 g | [I-].[Na+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-9-(3,5-difluorophenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine | 34 mg, 4% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC1=NN2C(C(CCCC2)C2=CC(=CC(=C2)F)F)=N1)OC | C23H21ClF2N6O
